US06340759B1
(212-4) 1-Chloro-7-methoxy-3-(2-methoxyphenyl)isoquinoline
7-Methoxy-3-(2-methoxyphenyl)isoquinoline-2-oxide (0.60 g) and phosphorus oxychloride (5 ml) were reacted at 110° C. for 2 hr. The reaction solution was concentrated, and to the resulting residue were added ethyl acetate and an aqueous saturated sodium bicarbonate. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give 0.56 g of the title compound as a white solid.

reactant | 7-Methoxy-3-(2-methoxyphenyl)isoquinoline-2-oxide | 0.60 g | COC1=CC=C2C=C([N+](=CC2=C1)[O-])C1=C(C=CC=C1)OC | C17H15NO3
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-methoxy-3-(2-methoxyphenyl)isoquinoline | 0.56 g | ClC1=NC(=CC2=CC=C(C=C12)OC)C1=C(C=CC=C1)OC | C17H14ClNO2
